US06455550B1
Preparation of 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-phenylalanine
To a mixture of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine hydrochloride salt (30 mmol, 10.59 g), N-(9-fluorenylmethoxycarbonyloxy)succinimide (30 mmol, 10.12 g) and sodium carbonate (300 mmol, 31.8 g) were added dioxane (75 mL) and water (25 mL) at room temperature. The suspension was stirred for 15 h at room temperature at which time TLC analysis of the mixture indicated the absence of starting material. The inorganic solids were filtered through celite and washed with ethyl acetate. While washing with ethyl acetate some organic compound was precipitated out from filtrate which was collected and air dried. The filtrate was concentrated under vacuum and the residue was combined with the above organic solid compound and the product was taken up in hot THF and precipatated with ether to obtain 14.1 g (81%), as a white solid, mp 230-234° C. LR MS (C31H24Cl2N2O5): Obs mass, 597. Calcd mass, 597, (M+Na).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine hydrochloride salt | 30 mmol, 10.59 g | Cl.ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](N)C(=O)O)C=C1
reactant | N-(9-fluorenylmethoxycarbonyloxy)succinimide | 30 mmol, 10.12 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
reactant | sodium carbonate | 300 mmol, 31.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-phenylalanine | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)C(=O)O)C=C1 | C31H24Cl2N2O5
